US07674397B2
Step 1.3.2: 5,5′-Bis-{4-[6-(tert-butyl-dimethylsilanyloxy)hexyl]-phenyl}-[2,2′]bithiophene
To a stirred solution of 5,5′-dibromo-[2,2′]bithiophene (0.60 g, 1.85 mmol) in anhydrous THF (50 ml) is added tetrakis(triphenylphosphine)palladium(0) (0.10 g) under N2, with stirring. After 20 min, 2-{4-[6-(tert-butyl-dimethylsilanyloxy)hexyl]-phenyl}-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (2.30 g, 5.50 mmol) and a solution of potassium carbonate (1.50 g) in water (10 ml) is added. This mixture is heated at reflux for 2 h. After cooling, water is added and the mixture is extracted with ethyl acetate (3×50 ml). The extracts are dried (Na2SO4) and evaporated under reduced pressure. The residue is purified by column chromatography on silica, eluting with petroleum ether/ethyl acetate (from 10:0 to 4:1), to give a yellow solid (0.87 g, 64%). 1H NMR (300 MHz, CDCl3): δ(ppm) 7.52 (d, J=8.1 Hz, 4H, Ar—H), 7.13-7.20 (m, 8H, Ar—H), 3.60 (t, J=6.4 Hz, 4H, OCH2), 2.62 (t, J=7.3 Hz, 4H, Ar—CH2), 1.35-1.65 (m, 16H, CH2), 0.89 (s, 18H, CH3), 0.05 (s, 12H, CH3); 13C NMR (75 MHz, CDCl3): δ(ppm) 143.2 (2×quat.), 142.5 (2×quat.), 136.3 (2×quat.), 131.5 (2×quat.), 129.0 (4×CH), 125.5 (4×CH), 124.3 (2×CH), 123.3 (2×CH), 63.3 (2×OCH2), 35.6 (2×CH2), 32.8 (2×CH2), 31.4 (2×CH2), 29.1 (2×CH2), 26.0 (3×CH3), 25.7 (CH2), 18.4 (2×quat.), −5.2 (2×CH3). HRMS 746.4080 (calc. for C44H66O2S2Si2 746.4043).

reactant | 5,5′-dibromo-[2,2′]bithiophene | 1.85 mmol, 0.60 g | BrC1=CC=C(S1)C=1SC(=CC1)Br | C8H4Br2S2
reactant | 2-{4-[6-(tert-butyl-dimethylsilanyloxy)hexyl]-phenyl}-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 5.50 mmol, 2.30 g | [Si](C)(C)(C(C)(C)C)OCCCCCCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H43BO3Si
reactant | potassium carbonate | 1.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5,5′-Bis-{4-[6-(tert-butyl-dimethylsilanyloxy)hexyl]-phenyl}-[2,2′]bithiophene | 0.87 g, 64% | [Si](C)(C)(C(C)(C)C)OCCCCCCC1=CC=C(C=C1)C1=CC=C(S1)C=1SC(=CC1)C1=CC=C(C=C1)CCCCCCO[Si](C)(C)C(C)(C)C | C44H66O2S2Si2
